* C:\Users\User\Desktop\ST-375\rapportAfsnit\eProblemloesning\Samlet_system_medlabel_nemmere.asc
V§Accelerometer Vcc N006 SINE(3.8675 0.0703 20)
C1 N006 0 200n
C2 Vcc 0 100n
XU1 N006 Accelerometer Vcc Vdd Accelerometer TL081
V2 Vcc 0 5.5
V3 Vdd 0 -5.5
Ra1 Reference_Offset N001 100k
Rb1 N001 Offset_justering 100k
Rc1 Accelerometer N003 100k
Rd1 N003 0 100k
XU2 N003 N001 Vcc Vdd Offset_justering level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R4 N005 0 10K
R5 Faktor9.1_forstærker N005 81k
XU4 Offset_justering N005 Vcc Vdd Faktor9.1_forstærker TL081
R6 N010 N002 44115.2830
R7 N004 N002 19546.69414
C3 Filter N002 470n
C4 N009 0 100n
R8 N009 Faktor9.1_forstærker 63662.9772
C5 0 N004 100n
XU5 N009 N010 Vcc Vdd N010 TL081
XU6 N004 Filter Vcc Vdd Filter TL081
R9 N007 0 10K
R10 Faktor3.6_forstærker N007 26K
XU7 Filter N007 Vcc Vdd Faktor3.6_forstærker TL081
D1 N011 Aktivering_rød_positiv QTLP690C
R11 0 Ref_Rød_positiv 16821
R12 Ref_Rød_positiv Reference_komparator_positiv 10K
R13 Vcc N011 165
R14 0 Ref_Gul+Vibrator_positiv 6285
R15 Ref_Gul+Vibrator_positiv Reference_komparator_positiv 10K
R16 Vcc N012 165
R17 Ref_Grøn_positiv Reference_komparator_positiv 10K
R18 0 Ref_Grøn_positiv 1068
R19 Reference_komparator_positiv N018 100K
R20 N018 Reference_komparator_positiv 100K
R21 Ref_Gul+Vibrator_negativ Reference_komparator_positiv 10K
R22 0 Ref_Gul+Vibrator_negativ 6039
R23 Ref_rød_negativ Reference_komparator_positiv 10K
R24 0 Ref_rød_negativ 15765
D2 N020 Aktivering_gul_negativ QTLP690C
D3 N023 Aktivering_rød_negativ QTLP690C
R25 Vcc N020 165
R26 Vcc N023 165
R27 N017 N016 165
XU8 0 N018 Vcc Vdd Reference_komparator_positiv TL081
XU9 Faktor3.6_forstærker N008 Vcc Vdd N008 OPA227
D4 N017 N019 QTLP690C
R28 Ref_Grøn_negativ Reference_komparator_positiv 10K
R29 0 Ref_Grøn_negativ 1042
D5 N012 Aktivering_gul_positiv QTLP690C
R30 Vcc N021 100k
M1 Aktivering_vibrator_negativ N021 0 0 Si9420DY
V7 V+ 0 3.4
R31 Vcc N013 100k
M2 Aktivering_vibrator_positiv N013 0 0 Si9420DY
R§Vibrator1 N014 Aktivering_vibrator_positiv 33
R§Vibrator2 N022 Aktivering_vibrator_negativ 33
XU11 Ref_Rød_positiv N008 Vcc Vdd Aktivering_rød_positiv 0 LM311
XU12 Ref_Gul+Vibrator_positiv N008 NC_01 Vdd Aktivering_gul_positiv 0 LM311
XU13 N008 Ref_Gul+Vibrator_positiv Vcc Vdd N013 0 LM311
XU14 N008 Ref_Grøn_positiv Vcc Vdd Vcc N016 LM311
XU15 Ref_Grøn_negativ N008 Vcc Vdd N019 0 LM311
XU16 N008 Ref_Gul+Vibrator_negativ Vcc Vdd Aktivering_gul_negativ 0 LM311
XU17 Ref_Gul+Vibrator_negativ N008 Vcc Vdd N021 0 LM311
XU18 N008 Ref_rød_negativ Vcc NC_02 Aktivering_rød_negativ 0 LM311
D6 V+ N014 BAT46WJ
D7 V+ N022 BAT46WJ
V§spaendingsref1 Reference_Offset 0 1.6330
V§spaendingsref2 N015 0 2.5005
XU3 N015 Reference_komparator_positiv Vcc Vdd Reference_komparator_positiv TL081
.model D D
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 0.1
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\LM311.mod
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\OPA227.MOD
.lib C:\Program Files\LTC\LTspiceIV\lib\sub\TL081.MOD
.lib UniversalOpamps2.sub
.backanno
.end
