* C:\Users\User\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Offset.asc
V1 N002 0 1.5915
V3 Vcc 0 6
V4 Vdd 0 -6
XU1 N004 N001 Vcc Vdd Vout LT1028
R1 N002 N001 100k
R2 N001 Vout 100k
R3 N003 N004 100k
R4 N004 0 100k
V2 N003 0 1.60
.tran 0 5 0.001
.lib LTC.lib
.backanno
.end
