* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Offset_uden_forstærkning.asc
V1 N002 0 1.5915
V3 Vcc 0 7
V4 Vdd 0 -7
R1 N002 N001 100k
R2 N001 Vout 100k
R3 N003 N004 100k
R4 N004 0 100k
V2 N003 0 1.8627
XU1 N004 N001 Vcc Vdd Vout LT1028
.tran 1
.lib LTC.lib
.backanno
.end
