* C:\Users\Mathias\Desktop\done_lavpasfilter3_Implementering.asc
V2 Vcc 0 5.5
R2 N001 N004 43961.486
R3 N005 N001 19500
C3 Vout N001 470n
C1 N003 0 100n
R1 N003 N002 63670.412
C2 0 N005 100n
V1 N002 0 AC 1
XU1 N003 N004 Vcc Vdd N004 TL081
XU2 N005 Vout Vcc Vdd Vout TL081
V3 Vdd 0 -5.5
.ac dec 1000 0.0000001 200
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
