* C:\Users\Mathias\Desktop\ST-375\rapportAfsnit\eProblemloesning\Design\Komparator_Feedback\Komparator07.12.15.asc
D1 N005 N004 QTLP690C
R7 0 N003 16821
R1 N003 N006 10K
V§Input N001 0 SINE(0 3 10)
R13 Vcc N005 165
R8 0 N007 6285
R2 N007 N006 10K
R14 Vcc N009 165
R3 N013 N006 10K
R9 0 N013 1068
R20 N006 N017 100K
R21 N017 N020 100K
R5 N021 N020 10K
R11 0 N021 6039
R6 N027 N020 10K
R12 0 N027 15765
D4 N023 N022 QTLP690C
D5 N029 N028 QTLP690C
R17 Vcc N023 165
R19 Vcc N029 165
Vref N014 0 2.5
V2 Vdd 0 -5.5
V1 Vcc 0 5.5
R16 N016 N015 165
XU11 0 N017 Vcc Vdd N020 TL081
XU9 N001 N002 Vcc Vdd N002 OPA227
D3 N016 N018 QTLP690C
R4 N019 N020 10K
R10 0 N019 1042
D2 N009 N008 QTLP690C
XU10 N014 N006 Vcc Vdd N006 TL081
R18 Vcc N024 100k
M1 N025 N024 0 0 Si9420DY
D7 V+ N026 BAT46WJ
V3 V+ 0 3.4
R15 Vcc N010 100k
M2 N011 N010 0 0 Si9420DY
D9 V+ N012 BAT46WJ
R§Vibrator1 N012 N011 33
R§Vibrator2 N026 N025 33
XU1 N003 N002 Vcc Vdd N004 0 LM311
XU2 N007 N002 NC_01 Vdd N008 0 LM311
XU3 N002 N007 Vcc Vdd N010 0 LM311
XU4 N002 N013 Vcc Vdd Vcc N015 LM311
XU5 N019 N002 Vcc Vdd N018 0 LM311
XU6 N002 N021 Vcc Vdd N022 0 LM311
XU7 N021 N002 Vcc Vdd N024 0 LM311
XU8 N002 N027 Vcc NC_02 N028 0 LM311
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.mos
.tran 0.1
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\LM311.mod
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\OPA227.MOD
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\sub\TL081.MOD
.backanno
.end
